** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/sg13cmos5l_ocd_ip__voltgen.sch
.subckt sg13cmos5l_ocd_ip__voltgen dvdd dvss vdd s[2] s[1] s[0] vbg vss ibias1u_1 vout2 ibias1u_2 ena vout1 ena1 ena2 ibias1u_3
+ high
*.PININFO vdd:B vss:B vbg:I vout1:O ibias1u_1:B s[2:0]:I ibias1u_2:B dvdd:B dvss:B ena:I vout2:O ibias1u_3:B ena1:I ena2:I high:I
C1 vdd net1 1.64p m=1
XM1 vref7 net1 vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1
XR1 vref7 vref6 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR2 vref6 vref5 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR3 vref5 vref4 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR4 vref4 vref3 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR5 vref3 vref2 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR6 vref2 vref1 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR7 vref1 vref0 vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR8 vref0 vss vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
x2 v7b vdd vref7 vpre vss v7 xgate
x3 vdd v0 v0b vss hv_inv_1
x4 v6b vdd vref6 vpre vss v6 xgate
x5 v5b vdd vref5 vpre vss v5 xgate
x6 v4b vdd vref4 vpre vss v4 xgate
x7 v3b vdd vref3 vpre vss v3 xgate
x8 v2b vdd vref2 vpre vss v2 xgate
x9 v1b vdd vref1 vpre vss v1 xgate
x10 v0b vdd vref0 vpre vss v0 xgate
x11 net3 net2 v0 vdd vss level_shift
x12 net2 net3 dvdd dvss sg13cmos5l_inv_2
x13 net3 s2b s1b s0b dvdd dvss sg13cmos5l_nand3_1
x14 s0b s[0] dvdd dvss sg13cmos5l_inv_2
x15 s1b s[1] dvdd dvss sg13cmos5l_inv_2
x16 s2b s[2] dvdd dvss sg13cmos5l_inv_2
x17 s0 s0b dvdd dvss sg13cmos5l_inv_2
x18 s1 s1b dvdd dvss sg13cmos5l_inv_2
x19 s2 s2b dvdd dvss sg13cmos5l_inv_2
x20 vdd v1 v1b vss hv_inv_1
x21 net5 net4 v1 vdd vss level_shift
x22 net4 net5 dvdd dvss sg13cmos5l_inv_2
x23 net5 s2b s1b s0 dvdd dvss sg13cmos5l_nand3_1
x24 vdd v2 v2b vss hv_inv_1
x25 net7 net6 v2 vdd vss level_shift
x26 net6 net7 dvdd dvss sg13cmos5l_inv_2
x27 net7 s2b s1 s0b dvdd dvss sg13cmos5l_nand3_1
x28 vdd v3 v3b vss hv_inv_1
x29 net9 net8 v3 vdd vss level_shift
x30 net8 net9 dvdd dvss sg13cmos5l_inv_2
x31 net9 s2b s1 s0 dvdd dvss sg13cmos5l_nand3_1
x32 vdd v4 v4b vss hv_inv_1
x33 net11 net10 v4 vdd vss level_shift
x34 net10 net11 dvdd dvss sg13cmos5l_inv_2
x35 net11 s2 s1b s0b dvdd dvss sg13cmos5l_nand3_1
x36 vdd v5 v5b vss hv_inv_1
x37 net13 net12 v5 vdd vss level_shift
x38 net12 net13 dvdd dvss sg13cmos5l_inv_2
x39 net13 s2 s1b s0 dvdd dvss sg13cmos5l_nand3_1
x40 vdd v6 v6b vss hv_inv_1
x41 net15 net14 v6 vdd vss level_shift
x42 net14 net15 dvdd dvss sg13cmos5l_inv_2
x43 net15 s2 s1 s0b dvdd dvss sg13cmos5l_nand3_1
x44 vdd v7 v7b vss hv_inv_1
x45 net17 net16 v7 vdd vss level_shift
x46 net16 net17 dvdd dvss sg13cmos5l_inv_2
x47 net17 s2 s1 s0 dvdd dvss sg13cmos5l_nand3_1
x50 vdd vout1 vout1 vpre ibias1u_2 vss vgen_ena1_b_h p_amp_large
x1 net19 ena vgen_ena_h vdd vss level_shift
x51 net19 ena dvdd dvss sg13cmos5l_inv_2
x48 vdd net1 vbg net18 ibias1u_1 vss vgen_ena_h n_amp_large
x52 vdd vout2 vpre vout2 vss ibias1u_3 vgen_ena2_b_h se_folded_cascode_p
x49 ena1 net20 vgen_ena1_b_h vdd vss level_shift
x53 net20 ena1 dvdd dvss sg13cmos5l_inv_2
x54 ena2 net21 vgen_ena2_b_h vdd vss level_shift
x55 net21 ena2 dvdd dvss sg13cmos5l_inv_2
x56 high_h vdd net18 vref3 vss low_h xgate
x57 low_h vdd net18 vref2 vss high_h xgate
x58 net22 high high_h vdd vss level_shift
x59 net22 high dvdd dvss sg13cmos5l_inv_2
x60 vdd high_h low_h vss hv_inv_1
XR9 vss vss vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
XR10 vss vss vss rhigh w=0.5e-6 l=2.5e-6 m=1 b=0
x67 s[0] dvdd dvss sg13cmos5l_antennanp
x68 dvdd dvss sg13cmos5l_decap_4
x61 s[1] dvdd dvss sg13cmos5l_antennanp
x62 s[2] dvdd dvss sg13cmos5l_antennanp
x63 high dvdd dvss sg13cmos5l_antennanp
x64 ena dvdd dvss sg13cmos5l_antennanp
x65 ena1 dvdd dvss sg13cmos5l_antennanp
x66 ena2 dvdd dvss sg13cmos5l_antennanp
.ends

* expanding   symbol:  xgate.sym # of pins=6
** sym_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/xgate.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/xgate.sch
.subckt xgate ena_b vdd in out vss ena
*.PININFO out:B in:B vdd:B vss:B ena_b:I ena:I
XM1 in ena_b out vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=1
XM2 in ena out vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1
.ends


* expanding   symbol:  hv_inv_1.sym # of pins=4
** sym_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/hv_inv_1.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/hv_inv_1.sch
.subckt hv_inv_1 vdd A X vss
*.PININFO A:I vdd:B vss:B X:O
XM1 X A vdd vdd sg13_hv_pmos w=2.0u l=0.4u ng=1 m=1
XM2 X A vss vss sg13_hv_nmos w=1.0u l=0.45u ng=1 m=1
.ends


* expanding   symbol:  level_shift.sym # of pins=3
** sym_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/level_shift.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/level_shift.sch
.subckt level_shift in_n in_p out vdd vss
*.PININFO in_n:I in_p:I out:O
XM1 net1 in_p vss vss sg13_hv_nmos w=4u l=0.5u ng=1 m=2
XM2 net1 S1_N vdd vdd sg13_hv_pmos w=1u l=0.5u ng=1 m=2
XM3 S1_N in_n vss vss sg13_hv_nmos w=4u l=0.5u ng=1 m=2
XM4 S1_N net1 vdd vdd sg13_hv_pmos w=1u l=0.5u ng=1 m=2
XM5 S2_N S1_N vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=2
XM6 S2_N S1_N vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=2
XM7 out S2_N vdd vdd sg13_hv_pmos w=2u l=0.5u ng=1 m=4
XM8 out S2_N vss vss sg13_hv_nmos w=1u l=0.5u ng=1 m=4
.ends


* expanding   symbol:  p_amp_large.sym # of pins=7
** sym_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/p_amp_large.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/p_amp_large.sch
.subckt p_amp_large avdd out inn inp ibias avss ena_b
*.PININFO avdd:B avss:B ena_b:I inp:I inn:I out:O ibias:B
XM7 net3 net2 avdd avdd sg13_hv_pmos w=20u l=1u ng=20 m=1
XM9 outn inp net1 avdd sg13_hv_pmos w=20u l=0.5u ng=20 m=1
XM10 out inn net1 avdd sg13_hv_pmos w=20u l=0.5u ng=20 m=1
XM11 out outn avss avss sg13_hv_nmos w=10u l=0.5u ng=10 m=1
XM12 outn outn avss avss sg13_hv_nmos w=10u l=0.5u ng=10 m=1
XM1 net2 net2 avdd avdd sg13_hv_pmos w=20u l=1u ng=20 m=1
XM2 ibias ena_b net2 avdd sg13_hv_pmos w=20u l=0.5u ng=20 m=1
Vmeas net3 net1 0
.save i(vmeas)
XM3 avss avss avss avss sg13_hv_nmos w=2u l=0.5u ng=2 m=2
.ends


* expanding   symbol:  n_amp_large.sym # of pins=7
** sym_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/n_amp_large.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/n_amp_large.sch
.subckt n_amp_large avdd out inn inp ibias avss ena
*.PININFO inp:I inn:I out:O avdd:B avss:B ena:I ibias:B
XM1 vcom net1 avss avss sg13_hv_nmos w=20u l=1u ng=20 m=1
XM2 out outn avdd avdd sg13_hv_pmos w=10u l=0.5u ng=10 m=1
XM3 outn outn avdd avdd sg13_hv_pmos w=10u l=0.5u ng=10 m=1
XM4 outn inp vcom avss sg13_hv_nmos w=20u l=0.5u ng=20 m=1
XM5 out inn vcom avss sg13_hv_nmos w=20u l=0.5u ng=20 m=1
XM6 ibias ena net1 avss sg13_hv_nmos w=20u l=0.5u ng=20 m=1
XM7 net1 net1 avss avss sg13_hv_nmos w=20u l=1u ng=20 m=1
XM8 avdd avdd avdd avdd sg13_hv_pmos w=2u l=0.5u ng=2 m=2
.ends


* expanding   symbol:  se_folded_cascode_p.sym # of pins=7
** sym_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/se_folded_cascode_p.sym
** sch_path: /home/tim/gits/sg13cmos5l_ocd_ip__biasgen/xschem/se_folded_cascode_p.sch
.subckt se_folded_cascode_p vdd out inp inn vss bias ena_b
*.PININFO inn:I inp:I out:O bias:B vdd:B vss:B ena_b:I
XM3 out1p inn diff vdd sg13_hv_pmos w=4u l=1u ng=1 m=8
XM2 out1n inp diff vdd sg13_hv_pmos w=4u l=1u ng=1 m=8
XM1 diff vbp1 vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=16
XM4 out1n vbn1 vss vss sg13_hv_nmos w=1u l=1u ng=1 m=16
XM5 out1p vbn1 vss vss sg13_hv_nmos w=1u l=1u ng=1 m=16
XM6 mirr vbn2 out1n vss sg13_hv_nmos w=1u l=4u ng=1 m=8
XM7 out vbn2 out1p vss sg13_hv_nmos w=1u l=4u ng=1 m=8
XM8 mirr vbp2 nd10 vdd sg13_hv_pmos w=2u l=4u ng=1 m=8
XM9 out vbp2 nd11 vdd sg13_hv_pmos w=2u l=4u ng=1 m=8
XM10 nd10 mirr vdd vdd sg13_hv_pmos w=2u l=4u ng=1 m=8
XM11 nd11 mirr vdd vdd sg13_hv_pmos w=2u l=4u ng=1 m=8
XMB1 vbp2 vbp2 vbp1 vdd sg13_hv_pmos w=2u l=4u ng=1 m=4
XMB2 vbp1 vbp1 vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=4
XMB3 vbn2 vbp1 vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=4
XMB4 vbn2 vbn2 vbn1 vss sg13_hv_nmos w=1u l=4u ng=1 m=4
XMB5 vbn1 vbn1 vss vss sg13_hv_nmos w=1u l=1u ng=1 m=4
XMB6 bias ena_b vbp2 vdd sg13_hv_pmos w=2u l=4u ng=1 m=4
XM12 vdd vdd vdd vdd sg13_hv_pmos w=4u l=1u ng=1 m=8
XM13 vdd vdd vdd vdd sg13_hv_pmos w=1u l=1u ng=1 m=2
XMB7 vss vss vss vss sg13_hv_nmos w=1u l=1u ng=1 m=16
.ends

